US08202885B2
To a solution of 22 mg of rac-isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester dissolved in 0.6 mL EtOH (evacuated 3 times with N2) were added 10 mg of 10 wt % Pd/C. The reaction mixture was stirred under a H2 atmosphere (balloon) for 1 h, filtered over a pad of celite and the cake was washed with EtOH and concentrated in vacuo to provide crude isobutyric acid (1R*,2R*,4R*)-(5RS)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-2-yl ester as mixture of 2 diastereoisomeric racemates. Purification by CC using EtOAc/MeOH 2/1 yielded 5 mg of racemate A and 6 mg of racemate B, both as colorless oils.

reactant | rac-isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester | 22 mg | N1C(=NC2=C1C=CC=C2)CCCN(CC[C@]2([C@H]1C=C([C@@H](C2)CC1)C1=CC=CC=C1)OC(C(C)C)=O)C | C31H39N3O2
solvent | EtOH | 0.6 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | isobutyric acid (1R*,2R*,4R*)-(5RS)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-2-yl ester | N1C(=NC2=C1C=CC=C2)CCCN(CC[C@]2([C@H]1CC([C@@H](C2)CC1)C1=CC=CC=C1)OC(C(C)C)=O)C | C31H41N3O2
